US08022205B2
4-(2-Methoxy-pyrimidin-5-yl)-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine (B-27)
In the same manner as Example 1-B-10, using 4-chloro-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine, and 2-methoxypyrimidin-5-boronic acid as a boronic acid, the desired compound was obtained.

reactant | 4-chloro-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC=NC=C2 | C15H16ClN5O
reactant | 2-methoxypyrimidin-5-boronic acid | COC1=NC=C(C=N1)B(O)O | C5H7BN2O3
reactant | boronic acid | B(O)O | BH3O2
product | 4-(2-Methoxy-pyrimidin-5-yl)-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | COC1=NC=C(C=N1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC=NC=C2 | C20H21N7O2
